Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])=[C:12]([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:15]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.82342465132
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])#[C:8][H:9],0.32012424963
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:4]#[C:3],5.81730705628
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.36148771207
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.455950228609999
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:6].[O:1]=[C:2]=[C:3]([H:4])/[C:5]=[C:7](/[H:8])[O:9][H:10],4.69773559289
[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-7.73832041508
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.72750887137
[C:1][C:2]#[C:3][C:5]([H:6])[O:7][C:8][H:9].[H:4]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9],-3.3643856063200004
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[H:14],5.1741931063
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],4.3251738399400015
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:3]=[C:4]=[C:5]([H:6])[H:7],1.06450763025
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][H:8],5.569674710319999
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.12836774881
[H:1].[O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.76595601777
[H:1][C:2]=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.1862642155900005
[C:1][O:2][C:3]#[C:4][H:5]>>[C:1]=[O:2].[C:3]#[C:4][H:5],-0.85440318989
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][O:5][H:6],1.7488021742400002
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9]>>[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.99740794578
[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13],-3.96038410107
[C:1](=[C:2]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[H:4].[C:3]#[C:5]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-6.35921689602
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9][H:10],1.18285558674
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.25583813884
[H:14].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.61763129412
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],2.6474619394
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.95572087852
[C:3]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-6.927327327060001
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:11]([C:8]([C:7])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.8967562632
